US09428528B2
Step 3 Preparation of 2,2-Difluoro-1-[(4S,5R)-4-fluoromethyl-5-(4-{6-[(3-fluoro-propylamino)-methyl]-pyridin-3-yl}-phenyl)-2,2-dimethyl-oxazolidin-3-yl]-ethanone
To a solution of 3-Fluoro-propylamine hydrochloride (0.072 g, 0.636 mmol) in acetonitrile (5 mL) is added diisopropylethylamine (0.082 mL, 0.636 mmol) at room temperature. After stirring for 30 minutes methane sulfonic acid 5-{4-[(4S,5R)-3-(2,2-difluoro-acetyl)-4-fluoromethyl-2,2-dimethyl-oxazolidin-5-yl]-phenyl}-pyridin-2-ylmethyl ester (0.1 g, 0.211 mmol) is added then the resulting mixture is stirred at room temperature for overnight. Solvent is evaporated under reduced pressure and the crude material is purified by combi-flash chromatography using 12% methanol in CH2Cl2 as an eluent to afford the title compound (0.093 g). 1H-NMR (400 MHz, DMSO-d6) δ: 1.52 (s, 3H), 1.60 (S, 3H), 2.06-2.14 (m, 2H), 3.57-3.60 (m, 2H), 4.35 (s, 2H), 4.49-4.51 (m, 1H), 4.52-4.56 (m, 0.5H), 4.57-4.63 (m, 1H), 4.64-4.70 (m, 1H), 4.83-4.86 (m, 0.5H), 4.93-4.97 (m, 1H), 5.28 (d, J=3.48 Hz, 1H), 6.66 (t, J=52.3 Hz, 1H), 7.61-7.65 (m, 3H), 7.84 (d, J=8.2 Hz, 2H), 8.21-8.23 (dd, J1=3.04 Hz, J2=8.16 Hz, 1H), 8.97 (d, J=1.96 Hz, 1H). LC-MS (m/z): [M+H]=454.1.

reactant | 3-Fluoro-propylamine hydrochloride | 0.636 mmol, 0.072 g | Cl.FCCCN
reactant | diisopropylethylamine | 0.636 mmol, 0.082 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methane sulfonic acid 5-{4-[(4S,5R)-3-(2,2-difluoro-acetyl)-4-fluoromethyl-2,2-dimethyl-oxazolidin-5-yl]-phenyl}-pyridin-2-ylmethyl ester | 0.211 mmol, 0.1 g | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=CC(=NC1)COS(=O)(=O)C)(C)C)F | C21H23F3N2O5S
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 2,2-Difluoro-1-[(4S,5R)-4-fluoromethyl-5-(4-{6-[(3-fluoro-propylamino)-methyl]-pyridin-3-yl}-phenyl)-2,2-dimethyl-oxazolidin-3-yl]-ethanone | 0.093 g | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=NC(=CC1)CNCCCF)(C)C)F | C23H27F4N3O2
